US08349847B2
Preparation of [1-(3,5-Dimethyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidine-4-yl]-[2-(2-methoxy-ethoxy)-ethyl]-amine (Compound No. 51)
60.0 ml of ethanol and 10.0 g (0.038 mol) of 4-chloro-1-(3,5-dimethyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidine (Compound No. 79) were charged into a 250 ml of 4 necked round bottom flask connected to a mechanical stirrer, thermometer socket, condenser and addition funnel. 22.40 g (0.18 mol) of 2-(2-Methoxy-ethoxy)-ethyl amine was charged at 25-30° C. under stirring. Reaction mass temperature was raised to reflux. Maintained the mass temperature at reflux for 5 hours. Reaction mass temperature was cooled to 25-30° C. Maintained the mass temperature at 25-30° C. for 60 min. Reaction mass temperature cooled to 0-5° C. Maintained the mass temperature at 0-5° C. for 60 min. Solid does not formed. Distilled off Ethanol completely under vacuum. Crude oily mass was obtained. Oily mass was dissolved in 45 ml of acetonitrile. 300.0 ml of isopropyl ether was added. Solid was formed. Solid was filtered and solid was washed with 50.0 ml of isopropyl ether. Compound was dried under vacuum at 60-65° C. Dry weight of the compound: 7.50 g (yield—56.80%). Melting point: 90.4° C.

reactant | ethanol | 60.0 ml | C(C)O | C2H6O
reactant | 4-chloro-1-(3,5-dimethyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidine | 0.038 mol, 10.0 g | ClC1=C2C(=NC=N1)N(N=C2)C2=CC(=CC(=C2)C)C | C13H11ClN4
reactant | 2-(2-Methoxy-ethoxy)-ethyl amine | 0.18 mol, 22.40 g | COCCOCCN | C5H13NO2
reactant | isopropyl ether | 300.0 ml | C(C)(C)OC(C)C | C6H14O
solvent | acetonitrile | 45 ml | C(C)#N | C2H3N
product | [1-(3,5-Dimethyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidine-4-yl]-[2-(2-methoxy-ethoxy)-ethyl]-amine | yield—56.80% | CC=1C=C(C=C(C1)C)N1N=CC=2C1=NC=NC2NCCOCCOC | C18H23N5O2
